US07795283B2
i) 3-[4-(Benzyloxy)phenyl]cyclohexanone
[4-(Benzyloxy)phenyl]boronic acid (2 g, 8.77 mmol) was dissolved in dioxane/water (50 mL/5 mL) and Rh(acac)(C2H4)2 (68 mg, 0.26 mmol) and racemic BINAP (164 mg, 0.26 mmol) were added. The mixture was degassed 3 times and put under a nitrogen atmosphere. Cyclohexenone (1.02 mL, 10.52 mmol) was added to the yellow solution and the mixture heated at reflux overnight. The reaction mixture was cooled, saturated aqueous sodium hydrogen carbonate solution (50 mL) added, then extracted with EtOAc (2×100 mL). The organic extracts were washed with water (100 mL) and dried. Volatile material was removed by evaporation and purification by chromatography gave the title compound (565 mg, 23%) as a solid; 1H NMR δ1.65-1.69 (1H, m), 1.78-1.93 (2H, m), 1.99-2.04 (1H, m), 2.22-2.35 (2H, m), 2.39-2.43 (1H, m), 2.65 (1H, m), 2.90-2.96 (1H, m), 5.08 (2H, s), 6.96 (2H, d), 7.20 (2H, d), 7.31-7.45 (5H, m); MS m/e MH+ 281.

reactant | [4-(Benzyloxy)phenyl]boronic acid | 8.77 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | BINAP | 0.26 mmol, 164 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cyclohexenone | 10.52 mmol, 1.02 mL | C1(C=CCCC1)=O | C6H8O
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | dioxane water | 50 mL | O1CCOCC1.O
product | 3-[4-(Benzyloxy)phenyl]cyclohexanone | 565 mg, 23% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1CC(CCC1)=O | C19H20O2
